US05102900
A mixture of 1-benzyl-2-formyl-4,5-diphenyl-imidazole (6.8 g), propane-1,3-diol (7.6 g) and polymer-bound pyridinium 4-toluenesulphonate (1.0 g) in toluene (250 ml) was stirred at reflux under a Dean & Stark water trap for 8 hours. TLC analysis (using a 1:1 v/v mixture of ethyl acetate and hexane) showed about 20% unreacted aldehyde. A further quantity of polymer-bound pyridinium 4-toluenesulphonate (250 mg) and propane-1,3-diol (3.5 g) were added, and the mixture was heated at reflux for a further period of 6 hours. After cooling to room temperature the mixture was decanted from the catalyst and washed with water (3×100 ml). The organic solution was dried over magnesium sulphate and evaporated, to give 1-benzyl-2-(1,3-dioxan-2-yl)-4,5-diphenylimidazole (7.2 g), in the form of a pale pink solid.

reactant | 1-benzyl-2-formyl-4,5-diphenyl-imidazole | 6.8 g | C(C1=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C=O | C23H18N2O
reactant | propane-1,3-diol | 7.6 g | C(CCO)O | C3H8O2
reactant | pyridinium 4-toluenesulphonate | 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | propane-1,3-diol | 3.5 g | C(CCO)O | C3H8O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | pyridinium 4-toluenesulphonate | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-2-(1,3-dioxan-2-yl)-4,5-diphenylimidazole | 7.2 g | C(C1=CC=CC=C1)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCO1 | C26H24N2O2
